US07211672B2
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide was prepared was made following general procedure C, substituting 3-methoxybenzoyl chloride for 4-fluorobenzoyl chloride. Further elaboration to the phenol was done following the same procedure as described for (±)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide.

reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | (±)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | OC1=CC=C(C(=O)N2C(CC(C3=CC=CC=C23)N(C(CC)=O)C2=CC=CC=C2)C)C=C1 | C26H26N2O3
product | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
